US08466282B2
Tert-butyl (3R,5S)-3-(1-hydroxyethyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate
tert-Butyl (3R,5S)-3-formyl-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate (360 mg) was dissolved in THF (4 ml), a solution (1M, 1.95 ml) of methyl magnesium bromide in THF was added under ice-cooling and the mixture was stirred for 3 hr. The reaction mixture was poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (325 mg).

reactant | tert-Butyl (3R,5S)-3-formyl-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate | 360 mg | C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1COCCOC)C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C29H43N5O6
reactant | methyl magnesium bromide | 1M, 1.95 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3R,5S)-3-(1-hydroxyethyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate | 325 mg | OC(C)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1COCCOC)C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C30H47N5O6
